US07531532B2
[4-(4-Nitrophenoxy)pyridin-2-yl]carbamic acid phenyl ester (100 mg) was dissolved in tetrahydrofuran (2 ml) under a nitrogen atmosphere, and then 4-(piperidin-1-yl)piperidine (144 mg) was added thereto, followed by stirring for 30 min. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of ammonium chloride. The organic layer was washed with a saturated aqueous solution of ammonium chloride, water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; hexane:ethyl acetate=1:2 to 1:8). The solvent was evaporated under a reduced pressure to give a residue, which was then dried in vacuum to provide 4-(piperidin-1-yl)piperidine-1-carboxylic acid [4-(4-nitrophenoxy)pyridin-2-yl]amide as a crude product.

reactant | [4-(4-Nitrophenoxy)pyridin-2-yl]carbamic acid phenyl ester | 100 mg | C1(=CC=CC=C1)OC(NC1=NC=CC(=C1)OC1=CC=C(C=C1)[N+](=O)[O-])=O | C18H13N3O5
reactant | 4-(piperidin-1-yl)piperidine | 144 mg | N1(CCCCC1)C1CCNCC1 | C10H20N2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 4-(piperidin-1-yl)piperidine-1-carboxylic acid [4-(4-nitrophenoxy)pyridin-2-yl]amide | [N+](=O)([O-])C1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)N2CCCCC2)C=C1 | C22H27N5O4
